US07576135B2
1-(4-fluorobenzoyl)pyperidine-4-carboxylic acid ethyl ester
The method described in Referential Example 492 was performed by use of isonipecotic acid ethyl ester and p-fluorobenzoyl chloride, whereby the title compound was obtained.

reactant | isonipecotic acid ethyl ester | C(C)OC(C1CCNCC1)=O | C8H15NO2
reactant | p-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 1-(4-fluorobenzoyl)pyperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C(C1=CC=C(C=C1)F)=O | C15H18FNO3
